US08044067B2
Titanium(IV) isopropoxide (130 ml) was added to a methanolic methylamine solution (125 ml, 8M) followed by the addition of 3-methoxybenzophenone (50 g). The reaction mixture was stirred at room temperature for 5 hours, after which sodium borohydride (12 g) was carefully added at 0-5° C. The mixture was stirred at room temperature for 2 hours, after which water (60 ml) was added. The inorganic precipitate was filtered off and the filtrate concentrated to dryness. The residue was partitioned between ethyl acetate (400 ml) and aqueous hydrochloric acid (2M, 400 ml). The aqueous phase was made alkaline (pH 11-12) and extracted with dichloromethane (2×300 ml). The organic phase was dried and concentrated to dryness, leaving 1-(3-methoxyphenyl)-N-methylethylamine (43.4 g) as a viscous oil.

reactant | methylamine | 8M, 125 ml | CN | CH5N
reactant | 3-methoxybenzophenone | 50 g | COC=1C=C(C(=O)C2=CC=CC=C2)C=CC1 | C14H12O2
reactant | sodium borohydride | 12 g | [BH4-].[Na+]
catalyst | Titanium(IV) isopropoxide | 130 ml | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
solvent | water | 60 ml | O | H2O
product | 1-(3-methoxyphenyl)-N-methylethylamine | 43.4 g | COC=1C=C(C=CC1)C(C)NC | C10H15NO
